US04820834
3-(RS)-(o-Chlorobenzoylamino)-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one
3-(RS)-Amino-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-one (250 mg, 0.93 mmol) was suspended in methylene chloride (10 ml) and treated with o-chlorobenzoylchloride (0.124 ml, 0.97 mmol) followed by triethylamine (0.143 ml, 0.97 mmol). The solution was stirred at room temperature overnight. The reaction solution was chromatographed on silica gel (chloroform followed by 97/3 chloroform/methanol) and the combined product fractions were evaporated to dryness in vacuo. TLC: Silica gel (90:10:1, CHCl3 :CH3OH:H2O), Rf =0.85.

reactant | 3-(RS)-Amino-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-one | 0.93 mmol, 250 mg | NC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)=O | C15H13N3O
reactant | o-chlorobenzoylchloride | 0.97 mmol, 0.124 ml | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
reactant | triethylamine | 0.97 mmol, 0.143 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-(RS)-(o-Chlorobenzoylamino)-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepin-2-one | ClC1=C(C(=O)NC2C(NC3=C(C(=N2)C2=CC=CC=C2)C=CC=C3)=O)C=CC=C1 | C22H16ClN3O2
